US04927819
Step D 5-Hydroxy-dibenzo[a,e]cyclooctene
To a solution of 5-p-toluenesulphonyloxymethyldibenzo[a,d]cycloheptene (17 g) in glacial acetic acid (150 ml) was added anhydrous sodium acetate (8.2 g) and the solution refluxed with stirring for 4 h. The solvents were removed in vacuo, the residue dissolved in methanol (100 ml), cooled to 0° C. and enough solid potassium hydroxide added to give pH 14. The suspension was stirred at room temperature for 2 h. then the methanol was removed in vacuo and the residue Partitioned between ether (200 ml) and water (50 ml). The organic layer was washed three times with water (50 ml), then dried and evaporated to qive the crude alcohol which was crystallised from n-hexane/5% ethyl acetate (10.2 g), mp 120°-1° C.

reactant | 5-p-toluenesulphonyloxymethyldibenzo[a,d]cycloheptene | 17 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)C | C23H20O3S
reactant | sodium acetate | 8.2 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 5-Hydroxy-dibenzo[a,e]cyclooctene | OC1=CC2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C16H12O
